US06037342
1-Allyl-1-methyl-4-(6-amino-5-chlorobenzoxazol-2-yl)piperazinium bromide
A 50 mg portion of 6-amino-5-chloro-2-(4-methyl-1-piperazinyl)benzoxazole was dissolved in 5 ml of DMF, and the solution, while stirring at room temperature, was mixed with 135 mg of allyl bromide and stirred for additional 2 hours. Thereafter, the solvent was evaporated under a reduced pressure and the thus obtained mixture was purified by an LH-20 gel column chromatography (chloroform:methanol=1:1) to obtain the title compound (15 mg) in light yellow color. 1H-NMR (CD3OD) δ values: 3.17 (3 H, s), 3.5-3.7 (4 H, m), 3.8-4.2 (4 H, m), 4.13 (2 H, d), 5.65-5.8 (2 H, m), 6.0-6.15 (1 H, m), 6.93 (1 H, s), 7.20 (1 H, s); MS (EI): m/z 306 (M+)

reactant | 6-amino-5-chloro-2-(4-methyl-1-piperazinyl)benzoxazole | NC1=CC2=C(N=C(O2)N2CCN(CC2)C)C=C1Cl | C12H15ClN4O
reactant | allyl bromide | 135 mg | C(C=C)Br | C3H5Br
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-Allyl-1-methyl-4-(6-amino-5-chlorobenzoxazol-2-yl)piperazinium bromide | 15 mg | [Br-].C(C=C)[N+]1(CCN(CC1)C=1OC2=C(N1)C=C(C(=C2)N)Cl)C | InChI=1S/C15H20ClN4O.BrH/c1-3-6-20(2)7-4-19(5-8-20)15-18-13-9-11(16)12(17)10-14(13)21-15;/h3,9-10H,1,4-8,17H2,2H3;1H/q+1;/p-1
